US04839360
(1)-(b) To 19.0 g of methyl 4-(4-chlorobenzoyl)butyrate was added 14.5 g of aniline, 0.6 g of p-toluenesulfonic acid monohydrate and 200 ml of toluene, and the mixture was refluxed with dehydration for 22.5 hours. The solvent was evaporated off under reduced pressure, and the residue was dissolved in 200 ml of methanol. A solution of 40 ml of an aqueous 20% sodium hydroxide solution and 3.0 g of sodium borohydride were added at 0° C., and the mixture was stirred at -3° to +5° C. for 1 hour. The reaction temperature was raised to room temperature, and then heated at 60° C. for 1 hour. After removal of solvent, the residue was diluted with 60 ml of water, adjusted to pH 6 to 7 with concentrated hydrochloric acid, extracted with ethyl acetate. The ethyl acetate extract was washed with diluted hydrochloric acid and a saturated aqueous sodium chloride solution, dried, and treated with activated charcoal. After removal of charcoal and the solvent, the residue was recrystallized from isopropyl ether to give 18.5 g of 5-anilino-5-(4-chlorophenyl)pentanoic acid as colorless prisms.

reactant | methyl 4-(4-chlorobenzoyl)butyrate | 19.0 g | ClC1=CC=C(C(=O)CCCC(=O)OC)C=C1 | C12H13ClO3
reactant | aniline | 14.5 g | NC1=CC=CC=C1 | C6H7N
catalyst | p-toluenesulfonic acid monohydrate | 0.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-anilino-5-(4-chlorophenyl)pentanoic acid | 18.5 g, Yield: 77.1% | N(C1=CC=CC=C1)C(CCCC(=O)O)C1=CC=C(C=C1)Cl | C17H18ClNO2
